* C:\users\david\My Documents\LTspice\PCB_filter\SMD_circuit.asc
XU1 N004 0 VCC 0 N005 VGND N008 N009 AD620
V1 VCC 0 6
R1 N008 N009 560 tol=5
R2 N001 N005 12k tol=5
V2 N004 0 SINE(0 15m 200 0 0 0 8) AC 15m
R3 N006 N001 27k tol=5
R4 N003 N002 2.2k tol=5
R5 N007 N003 2.2k tol=5
C1 N006 VGND 10n
C2 N007 VGND 10n
C3 N002 N001 22n
R6 N011 VCC 33k tol=5
R7 0 N011 10k tol=5
R8 N010 Vout 7.8k tol=5
R9 N012 0 100k
R10 0 N010 7.8k tol=5
R11 N011 N012 7.8k tol=5
R12 N013 0 100k
R13 VCC N013 100k
XU6 N013 VGND VCC 0 VGND AD549
C4 Vout N003 33n
C5 Vout N003 470n
C6 N002 N001 4.7n
XU5 N006 N002 VCC 0 N002 LMX24_LM2902
XU2 N007 Vout VCC 0 Vout LMX24_LM2902
XU3 N010 N011 VCC 0 N012 LMX24_LM2902
.options reltol=0.01 abstol=1u vntol=1u method=gear
.tran 20m
.lib ADI1.lib
.lib Z:\home\david\Documents\LTspice\PCB_filter\ad620.cir
.lib Z:\home\david\Documents\LTspice\PCB_filter\LM124\lmx24_lm2902.lib
.backanno
.end
